US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-[2-(1-acetyl-4-piperidinyloxy)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(4-piperidinyloxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (110 mg, 0.2 mmol), acetyl chloride (0.017 mL, 0.24 mmol) in DCM (5 mL) was added pyridine (23 mg, 0.3 mmol) at r.t. The reaction mixture was stirred for 4 h, then concentrated and partitioned between ethyl acetate and water. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over MgSO4 and concentrated. The residue was purified with Prep-HPLC to give the title compound as a white solid (Yield: 10 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(4-piperidinyloxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.2 mmol, 110 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1CCNCC1)=O)C1=C(C=CC(=C1)F)C)=O | C30H28Cl2FN3O3
reactant | acetyl chloride | 0.24 mmol, 0.017 mL | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.3 mmol, 23 mg | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Racemic (2′S,3S,4′R)-4′-[2-(1-acetyl-4-piperidinyloxy)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 10 mg | C(C)(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O | C32H30Cl2FN3O4
